US06083961
To a solution of 1-ethoxycarbonylmethyl-2-ethyl-4-hydroxy-1H-benzimidazole (140 mg) and 2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyl bromide (289 mg) in dimethylformamide (3 ml) was added potassium carbonate (117 mg) under ice-cooling, and the mixture was stirred for 30 minutes at the same temperature and then for 2 hours at ambient temperature. To the reaction mixture was added saturated sodium bicarbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel flash chromatography (5% methanol-ethyl acetate) and pulverized with diisopropyl ether to give 4-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyloxy]-1-ethoxycarbonylmethyl-2-ethyl-1H-benzimidazole (317 mg) as pale yellow solid.

reactant | 1-ethoxycarbonylmethyl-2-ethyl-4-hydroxy-1H-benzimidazole | 140 mg | C(C)OC(=O)CN1C(=NC2=C1C=CC=C2O)CC | C13H16N2O3
reactant | 2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyl bromide | 289 mg | ClC1=C(CBr)C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl | C21H20BrCl2N3O3
reactant | potassium carbonate | 117 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyloxy]-1-ethoxycarbonylmethyl-2-ethyl-1H-benzimidazole | 317 mg | ClC1=C(COC2=CC=CC=3N(C(=NC32)CC)CC(=O)OCC)C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl | C34H35Cl2N5O6
